US07728018B2
2,3-Diaza-spiro[4.4]non-2-ene
C-(1-Aminomethyl-cyclopentyl)-methylamine (4.87 g) was taken up in a mixture of H2O (40 mL) and MeOH (10 mL), and cooled in an ice bath. Simultaneously, H2O2 (23.9 mL of a 30% solution. 6 equiv.) and NaClO (54.3 mL of a 10% solution, 2.4 equiv.) were added dropwise, the ice bath was removed, and the mixture was stirred for 2 h. at room temperature. Extraction with DCM, drying over Na2SO4 and evaporation under reduced pressure yielded 3.74 g of a clear, light-yellow liquid containing 90% of the anticipated product and 10% of the diamine starting material. This material was used in subsequent steps without further purification. 1H NMR (400 MHz, CDCl3) δ 1.48-1.57 (m, 4H), 1.62-1.69 (m, 4H), 4.26 (s, 4H).

reactant | C-(1-Aminomethyl-cyclopentyl)-methylamine | 4.87 g | NCC1(CCCC1)CN | C7H16N2
reactant | H2O2 | OO | H2O2
reactant | NaClO | [O-]Cl.[Na+]
solvent | H2O | 40 mL | O | H2O
solvent | MeOH | 10 mL | CO | CH4O
product | 2,3-Diaza-spiro[4.4]non-2-ene | 90% | C1N=NCC12CCCC2 | C7H12N2
